US07652015B2
Add triethylamine (2.57 mL, 18.5 mmol) to a suspension of 1.1 g (3.7 mmol) of 4-nitro-2-(piperidin-4-yloxy)-pyridine dihydrochloride in dry dichloromethane (50 mL). Then add 2,6-difluorobenzoyl chloride, 0.512 mL (4.07 mmol). Stir the mixture at room temperature overnight. Add water (50 mL) and separate organic layer. Dry with MgSO4 and filter. Evaporate solvents to obtain 1.22 g (91% yield) of (2,6-difluoro-phenyl)-[4-(4-nitro-pyridin-2-yloxy)-piperidin-1-yl]-methanone as a yellow solid (ES+(m/z)=364 [M+H].

reactant | triethylamine | 18.5 mmol, 2.57 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitro-2-(piperidin-4-yloxy)-pyridine dihydrochloride | 3.7 mmol, 1.1 g | Cl.Cl.[N+](=O)([O-])C1=CC(=NC=C1)OC1CCNCC1
reactant | 2,6-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2,6-difluoro-phenyl)-[4-(4-nitro-pyridin-2-yloxy)-piperidin-1-yl]-methanone | 1.22 g, 91% yield | FC1=C(C(=CC=C1)F)C(=O)N1CCC(CC1)OC1=NC=CC(=C1)[N+](=O)[O-] | C17H15F2N3O4
